US06339154B1
2-{3-[(3-Morpholinopropyl)amino]-3-oxopropyl}phenyl N-octadecylcarbamate Hydrochloride (Compound 6)
4N Hydrochloric acid/ethyl acetate solution (0.10 ml) was added to a solution containing 2-{3-[(3-morpholinopropyl)amino]-3-oxopropyl}phenyl N-octadecylcarbamate (0.20 g) in ethyl acetate (2 ml) while being cooled with ice. After being stirred for 30 minutes at room temperature, the reaction mixture was concentrated. The residue was recrystallized with ethyl acetate, thereby yielding the entitled compound (0.19 g) as white solid.

reactant | Hydrochloric acid ethyl acetate | 4N, 0.10 ml | Cl.C(C)(=O)OCC
reactant | 2-{3-[(3-morpholinopropyl)amino]-3-oxopropyl}phenyl N-octadecylcarbamate | 0.20 g | C(CCCCCCCCCCCCCCCCC)NC(OC1=C(C=CC=C1)CCC(=O)NCCCN1CCOCC1)=O | C35H61N3O4
solvent | ethyl acetate | 2 ml | C(C)(=O)OCC | C4H8O2
product | 2-{3-[(3-Morpholinopropyl)amino]-3-oxopropyl}phenyl N-octadecylcarbamate Hydrochloride | 0.19 g | Cl.C(CCCCCCCCCCCCCCCCC)NC(OC1=C(C=CC=C1)CCC(=O)NCCCN1CCOCC1)=O | InChI=1S/C35H61N3O4.ClH/c1-2-3-4-5-6-7-8-9-10-11-12-13-14-15-16-19-25-37-35(40)42-33-22-18-17-21-32(33)23-24-34(39)36-26-20-27-38-28-30-41-31-29-38;/h17-18,21-22H,2-16,19-20,23-31H2,1H3,(H,36,39)(H,37,40);1H
